US06562978B1
1-tert-Butoxycarbonyl-4-(2-pyrazinylthio)piperidine
By a similar manner to Reference Example 35, 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) was reacted with mercaptopyrazine (0.67 g, 6.0 mmol) to give the titled compound as pale yellow oily substance (1.26 g, 85%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | mercaptopyrazine | 6.0 mmol, 0.67 g | SC1=NC=CN=C1 | C4H4N2S
product | 1-tert-Butoxycarbonyl-4-(2-pyrazinylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=NC=CN=C1 | C14H21N3O2S
